* C:\Users\ramc9m\Documents\LTspice\BinaryCounter.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 N001 N001 N001 N004 0 0 0 0 N009 N007 N005 N002 N001 N001 0 74HC161 ;§pnba 1)2)3)4)5)6)7)8)9)10)11)12)13)14)15)16
R1 N010 N009 10k
R2 N008 N007 10k
R3 N006 N005 10k
R4 N003 N002 10k
D1 N010 0 D
D2 N008 0 D
D3 N006 0 D
D4 N003 0 D
V1 N004 0 PULSE(0 5 0 1n 1n 1u 10u)
V2 N001 0 5
.model D D
.lib C:\Users\ramc9m\AppData\Local\LTspice\lib\cmp\standard.dio
.include 74hc.lib
.tran 0 1m 0 100n
.param vcc=5 speed=1 tripdt=0
.backanno
.end
